US07943636B2
Hydrochloric acid (10 mL of 1M) was added to a solution of 2-tert-butoxycarbonylamino-3-pyridylboronic acid (2.59 g, 10.9 mmol), and the resulting mixture was heated at 80° C. for 45 minutes and allowed to cool to room temperature. Potassium carbonate (3.87 g, 27.95 mmol) was added with stirring, and then DME (20 mL), 4-bromo-1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carbonitrile (1.70 g, 5.44 mmol), and dichlorobis(triphenylphosphine)palladium(II) (190 mg, 0.27 mmol) were added. The flask was placed under vacuum and back-filled with nitrogen three times. The reaction was heated under a nitrogen atmosphere at 95° C. overnight. The reaction was allowed to cool to room temperature, and the volatiles were removed under reduced pressure. The residue was dissolved in chloroform (100 mL), and the resulting solution was washed with water (100 mL), dried over magnesium sulfate, filtered, and concentrated to yield a light yellow solid. The crude product was purified by automated flash chromatography (eluting with 0% to 30% CMA in chloroform) followed by recrystallization from acetonitrile (30 mL). The crystals were washed with cold acetonitrile and dried overnight in a vacuum oven at 60° C. to provide 0.43 g of 2-propyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-2H-pyrazolo[3,4-c][1,8]naphthyridin-4-amine as white needles, mp 252-255° C.

reactant | Hydrochloric acid | 1M, 10 mL | Cl | ClH
reactant | 2-tert-butoxycarbonylamino-3-pyridylboronic acid | 10.9 mmol, 2.59 g | C(C)(C)(C)OC(=O)NC1=NC=CC=C1B(O)O | C10H15BN2O4
reactant | Potassium carbonate | 27.95 mmol, 3.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carbonitrile | 5.44 mmol, 1.70 g | BrC=1C(=NN(C1CC1CCOCC1)CCC)C#N | C13H18BrN3O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.27 mmol, 190 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 2-propyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-2H-pyrazolo[3,4-c][1,8]naphthyridin-4-amine | 0.43 g | C(CC)N1N=C2C(=NC=3N=CC=CC3C2=C1CC1CCOCC1)N | C18H23N5O
